US07465737B2
1.6 (+)-(6R)-9-(6,7-Dihydro-5H-[1]pyrindin-6-ylmethyl)-7,7-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one
A suspension of 0.51 g (2 mmol) of 7,7-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one in 10 ml of anhydrous dimethylformamide was treated with 96 mg (2 mmol) of sodium hydride (50% suspension in mineral oil) and the resulting mixture was stirred for 40 min. 0.455 g (2 mmol) of methanesulfonic acid 6,7-dihydro-5H-[1]pyrindin-6-ylmethyl ester in 2 ml of anhydrous dimethylformamide was added and the reaction mixture stirred at room temperature for 18 h. The solution was treated with water and extracted with ethyl acetate. The organic phase was dried and evaporated to give crude product, which was purified by silica gel chromatography, eluting with ethyl acetate/methanol/diethyl amine in the proportions 98/2/0.2 to give 0.3839 of pure product obtained in the form of free base. Mp: 182-184° C. [α]D20=+9.15° (c=0.5, CH2Cl2).

reactant | 7,7-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one | 2 mmol, 0.51 g | CC1(CNC=2N(C(C=C(N2)C2=CC=NC=C2)=O)C1)C | C14H16N4O
reactant | sodium hydride | 2 mmol, 96 mg | [H-].[Na+]
reactant | methanesulfonic acid 6,7-dihydro-5H-[1]pyrindin-6-ylmethyl ester | 2 mmol, 0.455 g | N1=CC=CC=2CC(CC12)COS(=O)(=O)C | C10H13NO3S
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (+)-(6R)-9-(6,7-Dihydro-5H-[1]pyrindin-6-ylmethyl)-7,7-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | N1=CC=CC=2C[C@H](CC12)CN1CC(CN2C1=NC(=CC2=O)C2=CC=NC=C2)(C)C | C23H25N5O
